US08487108B2
A 250 mL round bottom flask was charged with 0.4845 g (1.56 mmol, 1.0 equiv) of (R)-tert-butyl 3-((R)-(3-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate, 0.7920 g (2.39 mmol, 1.52 equiv) of carbon tetrabromide, and 15 mL of CH2Cl2. The flask was cooled with an ice bath and then 0.6258 g (2.38 mmol, 1.52 equiv) of triphenylphosphine was added in portions over 5 min. The reaction mixture was allowed to slowly warm to rt while stirring overnight. Analysis of the mixture by LC-MS showed two peaks with the same mass 236 [M-C4H8—Br]+, consistent with a ca 62:38 mixture of two isomers: tR=10.48 min and 10.93 min in 16 min chromatography, respectively. After the solvent was removed in vacuo, the residue was purified by ISCO (40 g silica gel column, 0%→30% ethyl acetate/hexanes over 40 min, flow rate 40 mL/min) to afford 0.2470 g (42%) of (3R)-tert-butyl 3-(bromo(3-fluorophenyl)methyl)piperidine-1-carboxylate. MS ESI +ve m/z 236 (M-C4H8—Br). Isomer 1 and 2, MS ESI +ve m/z 236 (M-C4H8—Br), tR=2.13, 2.17 min in 3 min chromatography.

reactant | (R)-tert-butyl 3-((R)-(3-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 1.56 mmol, 0.4845 g, 1.0 equiv | FC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H24FNO3
reactant | carbon tetrabromide | 2.39 mmol, 0.7920 g, 1.52 equiv | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.38 mmol, 0.6258 g, 1.52 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (3R)-tert-butyl 3-(bromo(3-fluorophenyl)methyl)piperidine-1-carboxylate | 0.2470 g, 42% | BrC([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C17H23BrFNO2
